US05703240
(4-Benzyloxy-phenyl)-(1-chloro-2,2,2-trifluoro-ethylidene)-amine
A mixture of resin-supported triphenylphosphine (3 mmol triphenylphosphine/g resin; 58.6 g) and N-(4-benzyloxy-phenyl)-2,2,2-trifluoro-acetamide in carbon tetrachloride (800 ml) was heated to reflux under nitrogen for 18 h. The mixture was allowed to cool then filtered, washing the resin with dichloromethane (1l) and ether (1l). The organics were concentrated in vacuo to give the title compound as a yellow solid (20.7 g). T.l.c. (Cyclohexanelethyl acetate (9:1)) Rf 0.81

reactant | triphenylphosphine | 3 mmol, 58.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-(4-benzyloxy-phenyl)-2,2,2-trifluoro-acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(C(F)(F)F)=O | C15H12F3NO2
reactant | carbon tetrachloride | 800 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (4-Benzyloxy-phenyl)-(1-chloro-2,2,2-trifluoro-ethylidene)-amine | 20.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N=C(C(F)(F)F)Cl | C15H11ClF3NO
